US08871756B2
To a cooled solution of 3,3-difluorocyclobutane-1,1-dicarboxamide (1.858 g, 10.4 mmol) in tetrahydrofuran (25 mL) at −10° C., was added slowly lithium aluminium hydride (2.375 g, 62.58 mmol). The reaction was stirred at 0° C. for 4 hours and then heated under reflux for 30 hours. The mixture was cooled and quenched at 0° C. by addition of water (2.5 mL), 15% aqueous solution of sodium hydroxide (7.5 mL) and water (2.5 mL) successively. The resulting mixture was stirred at room temperature for 0.5 hour. The mixture was filtered and the filtrate was concentrated in vacuo to afford 1.137 g of the crude product of (3,3-difluorocyclobutane-1,1-diyl)dimethanamine as a colorless oil (yield was 72.8%).

reactant | 3,3-difluorocyclobutane-1,1-dicarboxamide | 10.4 mmol, 1.858 g | FC1(CC(C1)(C(=O)N)C(=O)N)F | C6H8F2N2O2
reactant | lithium aluminium hydride | 62.58 mmol, 2.375 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (3,3-difluorocyclobutane-1,1-diyl)dimethanamine | yield was 72.8% | FC1(CC(C1)(CN)CN)F | C6H12F2N2
